US05175301
In 77 ml of CHCl3 was dissolved 7.00 g (0.0511 mole) of (2,6-dimethyl-4-pyridyl)methanol and with stirring at room temperature, 15.3 ml of thionyl chloride was added dropwise. After completion of the dropwise addition, the mixture was stirred for 3 hours and concentrated. The residue was diluted with aqueous sodium hydrogen carbonate solution and extracted with AcOEt (100 ml×3). The extract was dried over MgSO4 and distilled to remove AcOEt. The procedure gave 6.37 g of (2,6-dimethyl-4-pyridyl)methyl chloride as oil.

reactant | (2,6-dimethyl-4-pyridyl)methanol | 0.0511 mole, 7.00 g | CC1=NC(=CC(=C1)CO)C | C8H11NO
reactant | thionyl chloride | 15.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 77 ml | C(Cl)(Cl)Cl | CHCl3
product | (2,6-dimethyl-4-pyridyl)methyl chloride | 6.37 g | CC1=NC(=CC(=C1)CCl)C | C8H10ClN
